US06743799B2
5-(5-Acetyl-2-butoxy-3-pyridinyl)-3-ethyl-2-(1-ethyl-3-azetidinyl)-2,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one (see WO 01/27112, Example 132);
Still other type cGMP PDE5 inhibitors useful in conjunction with the present invention include:4-bromo-5-(pyridylmethylamino)-6-[3-(4-chlorophenyl)-propoxy]-3(2H)pyridazinone; 1-[4-[(1,3-benzodioxol-5-ylmethyl)amiono]-6-chloro-2-quinozolinyl]-4-piperidine-carboxylic acid, monosodium salt; (+)-cis-5,6a,7,9,9,9a-hexahydro-2-[4-(trifluoromethyl)-phenylmethyl-5-methyl-cyclopent-4,5]imidazo[2,1-b]purin-4(3H)one; furazlocillin; cis-2-hexyl-5-methyl-3,4,5,6a,7,8,9,9a-octahydrocyclopent[4,5]-imidazo[2,1-b]purin-4-one; 3-acetyl-1-(2-chlorobenzyl)-2-propylindole-6-carboxylate; 3-acetyl-1-(2-chlorobenzyl)-2-propylindole-6-carboxylate; 4-bromo-5-(3-pyridylmethylamino)-6-(3-(4-chlorophenyl) propoxy)-3-(2H)pyridazinone; I-methyl-5(5-morpholinoacetyl-2-n-propoxyphenyl)-3-n-propyl-1,6-dihydro-7H-pyrazolo(4,3-d)pyrimidin-7-one; 1-[4-[(1,3-benzodioxol-5-ylmethyl)arnino]-6-chloro-2-quinazolinyl]-4-piperidinecarboxylic acid, monosodium salt; Pharmaprojects No. 4516 (Glaxo Wellcome); Pharmaprojects No. 5051 (Bayer); Pharmaprojects No. 5064 (Kyowa Hakko; see WO 96/26940); Pharmaprojects No. 5069 (Schering Plough); GF-196960 (Glaxo Wellcome); E-8010 and E-4010 (Eisai); Bay-38-3045 & 38-9456 (Bayer) and Sch-51866.

reactant | cGMP | C1=NC2=C(N1[C@H]3[C@@H]([C@H]4[C@H](O3)COP(=O)(O4)O)O)NC(=NC2=O)N | C10H12N5O7P
reactant | 4-bromo-5-(pyridylmethylamino)-6-[3-(4-chlorophenyl)-propoxy]-3(2H)pyridazinone | BrC=1C(NN=C(C1NCC1=NC=CC=C1)OCCCC1=CC=C(C=C1)Cl)=O | C19H18BrClN4O2
reactant | monosodium | [Na] | Na
reactant | furazlocillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@@H](C3=CC=C(C=C3)O)NC(=O)N4CCN(C4=O)/N=C/C5=CC=CO5)C(=O)O)C | C25H26N6O8S
reactant | cis-2-hexyl-5-methyl-3,4,5,6a,7,8,9,9a-octahydrocyclopent[4,5]-imidazo[2,1-b]purin-4-one | C(CCCCC)C1=NC=2N3C(N(C(C2N1)=O)C)=N[C@H]1[C@@H]3CCC1 | C17H25N5O
reactant | 3-acetyl-1-(2-chlorobenzyl)-2-propylindole-6-carboxylate | C(C)(=O)C1=C(N(C2=CC(=CC=C12)C(=O)[O-])CC1=C(C=CC=C1)Cl)CCC
reactant | 4-bromo-5-(3-pyridylmethylamino)-6-(3-(4-chlorophenyl) propoxy)-3-(2H)pyridazinone | BrC=1C(NN=C(C1NCC=1C=NC=CC1)OCCCC1=CC=C(C=C1)Cl)=O | C19H18BrClN4O2
reactant | 1-[4-[(1,3-benzodioxol-5-ylmethyl)arnino]-6-chloro-2-quinazolinyl]-4-piperidinecarboxylic acid | O1COC2=C1C=CC(=C2)CNC2=NC(=NC1=CC=C(C=C21)Cl)N2CCC(CC2)C(=O)O | C22H21ClN4O4
reactant | GF-196960 | CN1CC(=O)N2[C@@H](C1=O)CC3=C([C@H]2C4=CC5=C(C=C4)OCO5)NC6=CC=CC=C36 | C22H19N3O4
reactant | Sch-51866 | CN1C(=O)C2=C(N=C(N2)CC=3C=CC(=CC3)C(F)(F)F)N4C1=N[C@H]5[C@@H]4CCC5 | C19H18F3N5O
product | 5-(5-Acetyl-2-butoxy-3-pyridinyl)-3-ethyl-2-(1-ethyl-3-azetidinyl)-2,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one | C(C)(=O)C=1C=C(C(=NC1)OCCCC)C=1NC(C=2C(N1)=C(N(N2)C2CN(C2)CC)CC)=O | C23H30N6O3
